US03954757
A mixture of 11.7 g indole in 50 ml methanol and 11.6 g 1,4,5,6-tetrahydro-2-pyrimidinethiol in 100 ml methanol is added to a well-stirred solution of 25.4 g iodine and 50 g potassium iodide in 100 ml water. The mixture is stirred for 12 hours at room temperature and cooled. The crystalline product is filtered off. The filtrate is concentrated to one third of the original volume, and cooled to yield more of the resulting product. The combined product is recrystallised from alcohol to give 3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole hydriodide, melting at 251°.

reactant | indole | 11.7 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1,4,5,6-tetrahydro-2-pyrimidinethiol | 11.6 g | N1C(=NCCC1)S | C4H8N2S
reactant | iodine | 25.4 g | II | I2
reactant | potassium iodide | 50 g | [I-].[K+]
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole hydriodide | I.N1C(=NCCC1)SC1=CNC2=CC=CC=C12 | InChI=1S/C12H13N3S.HI/c1-2-5-10-9(4-1)11(8-15-10)16-12-13-6-3-7-14-12;/h1-2,4-5,8,15H,3,6-7H2,(H,13,14);1H
